US04755594
(1-(4-Chlorophenyl)cyclopropyl)methylamine is prepared from 4-chlorophenyl acetonitrile and ethylene dibromide in overall 33% yield as described in Example 1.

reactant | 4-chlorophenyl acetonitrile | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | ethylene dibromide | C(CBr)Br | C2H4Br2
product | (1-(4-Chlorophenyl)cyclopropyl)methylamine | 33% yield | ClC1=CC=C(C=C1)C1(CC1)CN | C10H12ClN
